US06939883B2
Step 1C 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-bromo-5-ethoxycarbonyl-4-pyridone:
1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-ethoxycarbonyl-4-pyridone (2.43 g, 7.6 mmol) was dissolved in glacial acetic acid (25 mL) and treated with bromine (490 μL, 9.5 mmol). The resulting mixture was stirred at room temperature for 8 hours and poured into ice/water. The product was extracted with dichloromethane, and the extracts were washed with 10% aqueous NaHCO3, 5% aqueous Na2S2O3 and brine. The organics were dried over anhydrous MgSO4, filtered and evaporated in vacuo. The residue was triturated with diethyl ether to give the product as a white solid (1.32 g, 3.3 mmol, 43%). 1H NMR (CDCl3, 300 MHz): 7.41-7.31 (m, 1H), 7.00-6.92 (m, 2H), 5.31 (s, 2H), 4.37 (q, J=6.9 Hz, 2H), 2.66 (s, 3H), 2.37 (s, 3H), 1.37 (t, J=6.9 Hz, 3H); LRMS m/z 400.1 (M+−1), 402.1 (M++1).

reactant | 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-ethoxycarbonyl-4-pyridone | 7.6 mmol, 2.43 g | FC1=C(CN2C(=C(C(C=C2C)=O)C(=O)OCC)C)C(=CC=C1)F | C17H17F2NO3
reactant | bromine | 9.5 mmol, 490 μL | BrBr | Br2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-bromo-5-ethoxycarbonyl-4-pyridone | 3.3 mmol, 1.32 g, 43% | FC1=C(CN2C(=C(C(C(=C2C)C(=O)OCC)=O)Br)C)C(=CC=C1)F | C17H16BrF2NO3
